US04061761
4-(3-Benzhydrylsulfamoyl-4-chlorophenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol
6.5 g of 4-(4-chloro-3-chlorosulfonylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hydrobromide were reacted as prescribed in Example 76 with 2.7 g of benzhydrylamine and 4 g of triethyl amine and worked up. Colorless solid body, decomposition beginning at 103° C, γ C=N 1620 cm-1.

reactant | 4-(4-chloro-3-chlorosulfonylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hydrobromide | 6.5 g | Br.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC)C)O)S(=O)(=O)Cl
reactant | benzhydrylamine | 2.7 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N | C13H13N
solvent | triethyl amine | 4 g | C(C)N(CC)CC | C6H15N
product | 4-(3-Benzhydrylsulfamoyl-4-chlorophenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol | C(C1=CC=CC=C1)(C1=CC=CC=C1)NS(=O)(=O)C=1C=C(C=CC1Cl)C1(N(C(SC1)=NC)C)O | C24H24ClN3O3S2
